US07897766B2
5-(2-Methylthiazol-4-yl)thiophene-2-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride
Prepared from (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and 5-(2-methylthiazol-4-yl)thiophene-2-carboxylic acid according to methods A and C. 1H NMR (300 MHz, methanol-d4) δ ppm 2.08-2.34 (m, 5H), 2.51 (s, 2H), 2.74 (s, 3H), 3.42-3.64 (m, 4H), 3.88 (d, J=12.5 Hz, 2H), 4.33 (s, 1H), 7.49 (d, J=4.1 Hz, 1H), 7.68 (s, 1H), 7.79 (d, J=4.1 Hz, 1H). MS (DCI/NH3) m/z 360.

reactant | (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)N
reactant | 5-(2-methylthiazol-4-yl)thiophene-2-carboxylic acid | CC=1SC=C(N1)C1=CC=C(S1)C(=O)O | C9H7NO2S2
reactant | NH3 | N | H3N
product | 5-(2-Methylthiazol-4-yl)thiophene-2-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)NC(=O)C=2SC(=CC2)C=2N=C(SC2)C | InChI=1S/C18H21N3OS2.ClH/c1-10-19-14(9-23-10)15-2-3-16(24-15)18(22)20-17-12-4-11-5-13(17)8-21(6-11)7-12;/h2-3,9,11-13,17H,4-8H2,1H3,(H,20,22);1H/t11?,12?,13?,17-;
